US05084085
To a stirred, cold (0° C.) mixture of 0.085 gram (0.00355 mole) of sodium hydride in 10 mL of N,N-dimethylformamide was added 1.0 gram (0.00323 mole) of 1-(5-amino-2,4-dichlorophenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one. After stirring for a brief period of time, 0.455 gram (0.00323 mole) of 4-fluoronitrobenzene was added. The resultant mixture was allowed to warm to room temperature and was stirred for one hour. The reaction mixture was heated at 60° C. for three hours and an additional 0.455 gram of 4-fluoronitrobenzene was added. This mixture was heated at 50° C. for approximately 18 hours. After cooling to room temperature, the mixture was poured into ice water. The aqueous mixture was extracted with three portions of ethyl acetate. The extracts were combined and washed in succession with 1N hydrochloric acid, an aqueous saturated sodium bicarbonate solution, water, and an aqueous sodium chloride solution. The washed organic phase was dried over anhydrous magnesium sulfate and was filtered. The filtrate was evaporated under reduced pressure to yield a solid. This solid was purified by recrystallization from ethyl acetate and n-heptane to yield 0.25 gram of 1-[2,4-dichloro-5-(4-nitrophenyl)-aminophenyl]-4-difluoromethyl-4,5-dihydro -3-methyl-1,2,4-triazol-5(1H)-one, m.p. 249°-251° C. The mother liquor from the recrystallization process was evaporated under reduced presure leaving 1.0 gram of an orange oil. Analysis of this oil by thin layer chromatography indicated it contained a substantial amount of the desired product.

reactant | sodium hydride | 0.00355 mole, 0.085 gram | [H-].[Na+]
reactant | 1-(5-amino-2,4-dichlorophenyl)-4-difluoromethyl-4,5-dihydro-3-methyl-1,2,4-triazol-5(1H)-one | 0.00323 mole, 1.0 gram | NC=1C(=CC(=C(C1)N1N=C(N(C1=O)C(F)F)C)Cl)Cl | C10H8Cl2F2N4O
reactant | 4-fluoronitrobenzene | 0.00323 mole, 0.455 gram | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-fluoronitrobenzene | 0.455 gram | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | 1-[2,4-dichloro-5-(4-nitrophenyl)-aminophenyl]-4-difluoromethyl-4,5-dihydro -3-methyl-1,2,4-triazol-5(1H)-one | 0.25 gram | ClC1=C(C=C(C(=C1N)Cl)C1=CC=C(C=C1)[N+](=O)[O-])N1N=C(N(C1=O)C(F)F)C | C16H11Cl2F2N5O3
